US09388168B2
Preparation of 2,2-dimethyl-N-(1H-pyrazol-3-yl)-propionamide
3-Aminopyrazole (9 g, 108 mmol) was dissolved in DCM (250 ml). Triethylamine (27 g, 262 mmol) was added in one portion. Pivaloyl chloride (30 g, 248 mmol) was added slowly at room temperature. After stirring at room temperature for 6 hours, the solvent was concentrated under reduced pressure to give a solid. The solid was dissolved in methanol (200 ml). Aqueous NaOH (2.5M, 120 ml) was added slowly and the mixture was stirred at room temperature for 30 minutes. The solvent was evaporated off under reduced pressure. The slurry was transferred into water (300 ml). The solid was filtrated and dried to give the title product (13.5 g) as a yellow solid, yield: 76%. 1H-NMR (400 MHz, d6-DMSO): δ 12.3 (s, 1H), 9.77 (s, 1H), 7.58 (s, 1H), 6.49 (s, 1H), 1.2 (s, 9H).

reactant | 3-Aminopyrazole | 108 mmol, 9 g | NC1=NNC=C1 | C3H5N3
reactant | Triethylamine | 262 mmol, 27 g | C(C)N(CC)CC | C6H15N
reactant | Pivaloyl chloride | 248 mmol, 30 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | NaOH | 2.5M, 120 ml | [OH-].[Na+]
solvent | DCM | 250 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 200 ml | CO | CH4O
product | 2,2-dimethyl-N-(1H-pyrazol-3-yl)-propionamide | 13.5 g, yield: 76% | CC(C(=O)NC1=NNC=C1)(C)C | C8H13N3O
